US07902187B2
6-chloro-2-(5-chloro-2-nitrophenylamino)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
To an oven-dried 2-neck flask under Ar was added racemic BINAP (2.27 g, 3.64 mmol, 0.35 equiv.) followed by anhydrous toluene (20 mL) and Pd(OAc)2 (1.05 g, 1.56 mmol, 0.15 equiv.) and the mixture was stirred under Ar, at room temperature for 15 min. A deep yellow paste is formed. Then, 2-bromo-4-chloro-1 nitrobenzene (3.19 g, 13.52 mmol, 1.3 equiv.), 2-amino-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one (2.80 g, 10.4 mmol, 1.0 equiv.) and cesium carbonate (5.08 g, 15.6 mmol, 1.5 equiv.) were added as solids, under Ar, followed by anhydrous toluene (22 mL), and the reaction mixture was stirred at room temperature for 10 min, then stirred at 100° C. for 17 h. The reaction mixture was cooled to room temperature, diluted with toluene (450 mL) and passed through Celite. The filtrate was concentrated in vacuo to give a dark brown residue. Flash chromatographic purification (silica gel, gradual elution with 1 to 5% methanol in methylene chloride), followed by recrystallization from hot ethyl acetate gave the desired product as a bright yellow solid (1.63 g, 37% yield) in high purity. 1H NMR (300 MHz, CDCl3+CD3OD) δ, ppm: 9.05 (s, 1H), 8.24 (d, 1H), 7.06 (d, 1H), 4.56-4.52 (m, 1H), 4.16 (dd, 2H), 3.58 (app t, 2H), 2.72 (tdd, 2H), 1.81 (br d, 2H); MS (EI) m/z 425.2 (MH)+.

reactant | BINAP | 3.64 mmol, 2.27 g, 0.35 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 2-bromo-4-chloro-1 nitrobenzene | 13.52 mmol, 3.19 g, 1.3 equiv. | BrC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | 2-amino-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 10.4 mmol, 2.80 g, 1.0 equiv. | NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)Cl | C10H12ClN5O2
reactant | cesium carbonate | 15.6 mmol, 5.08 g, 1.5 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 1.56 mmol, 1.05 g, 0.15 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-2-(5-chloro-2-nitrophenylamino)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 1.63 g, 37% yield | ClC1=C2NC(N(C2=NC(=N1)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-])C1CCOCC1)=O | C16H14Cl2N6O4
